US06841549B1
(1) N-(6-Chloro-5-nitro-4-pyrimidinyl)-N-(2-chloro-4-pyridyl)amine
4-Amino-2-chloropyridine (8.0 g, 62.2 mmol) and triethylamine (8.7 mL) were added. successively to a suspension of 5-nitro-4,6-dichloropyrimidine (8.0 g, 41.2 mmol) in tetrahydrofuran (160 mL), and the mixture was heated under reflux for 4 hours. After cooling as it was, the reaction solution was diluted with ethyl acetate (160 ml) and washed with 160 ml water and brine, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue were suspended in diethyl ether, and the resulting solid was collected by filtration and air-dried, to give the title compound (2.2 g, 19%).

reactant | 4-Amino-2-chloropyridine | 62.2 mmol, 8.0 g | NC1=CC(=NC=C1)Cl | C5H5ClN2
reactant | triethylamine | 8.7 mL | C(C)N(CC)CC | C6H15N
reactant | 5-nitro-4,6-dichloropyrimidine | 41.2 mmol, 8.0 g | [N+](=O)([O-])C=1C(=NC=NC1Cl)Cl | C4HCl2N3O2
solvent | tetrahydrofuran | 160 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 160 ml | C(C)(=O)OCC | C4H8O2
product | N-(6-Chloro-5-nitro-4-pyrimidinyl)-N-(2-chloro-4-pyridyl)amine | 2.2 g, 19% | ClC1=C(C(=NC=N1)NC1=CC(=NC=C1)Cl)[N+](=O)[O-] | C9H5Cl2N5O2
